** sch_path: /data/Projects/tiny_workspace/xschem/khn_biquad.sch
.subckt khn_biquad vin vout en_lp en_bp en_hp sc_clk q0 q1 q2 q3 vdd vss
*.ipin vin
*.opin vout
*.ipin en_lp
*.ipin en_bp
*.ipin en_hp
*.ipin sc_clk
*.ipin q0
*.ipin q1
*.ipin q2
*.ipin q3
*.iopin vdd
*.iopin vss
XXXMPbias vcm vcm vdd vdd sg13_lv_pmos w=2e-6 l=0.5e-6 ng=1
XXXMNbias vcm vcm vss vss sg13_lv_nmos w=2e-6 l=0.5e-6 ng=1
XXXMP_n0 n1 sc_clk vdd vdd sg13_lv_pmos w=2e-6 l=0.13e-6 ng=1
XXXMN_n0 n1 sc_clk vss vss sg13_lv_nmos w=1e-6 l=0.13e-6 ng=1
XXXMP_n1 phi1 n1 vdd vdd sg13_lv_pmos w=2e-6 l=0.13e-6 ng=1
XXXMN_n1 phi1 n1 vss vss sg13_lv_nmos w=1e-6 l=0.13e-6 ng=1
XXXMP_n2 n3 phi1 vdd vdd sg13_lv_pmos w=2e-6 l=0.13e-6 ng=1
XXXMN_n2 n3 phi1 vss vss sg13_lv_nmos w=1e-6 l=0.13e-6 ng=1
x_e1_top_vin vin cin_t phi1 n3 vss vdd cmos_tg
x_e1_bot_vcm vcm cin_b phi1 n3 vss vdd cmos_tg
x_e1_top_vcm vcm cin_t n3 phi1 vss vdd cmos_tg
x_e1_bot_sum sum1 cin_b n3 phi1 vss vdd cmos_tg
XXC_in cin_t cin_b cap_cmim w=7.0e-6 l=7.0e-6
x_e2_top_lp lp cfb_t phi1 n3 vss vdd cmos_tg
x_e2_bot_sum sum1 cfb_b phi1 n3 vss vdd cmos_tg
x_e2_top_vcm vcm cfb_t n3 phi1 vss vdd cmos_tg
x_e2_bot_vcm vcm cfb_b n3 phi1 vss vdd cmos_tg
XXC_fb cfb_t cfb_b cap_cmim w=7.0e-6 l=7.0e-6
XXC_int1 bp sum1 cap_cmim w=23.1e-6 l=23.1e-6
x_ota1 vcm sum1 vcm bp vdd vss svf_ota5t
x_e4_top_bp bp cis_t n3 phi1 vss vdd cmos_tg
x_e4_bot_vcm vcm cis_b n3 phi1 vss vdd cmos_tg
x_e4_top_vcm vcm cis_t phi1 n3 vss vdd cmos_tg
x_e4_bot_sum sum2 cis_b phi1 n3 vss vdd cmos_tg
XXC_is cis_t cis_b cap_cmim w=7.0e-6 l=7.0e-6
XXC_int2 lp sum2 cap_cmim w=23.1e-6 l=23.1e-6
x_ota2 vcm sum2 vcm lp vdd vss svf_ota5t
x_swq0_en bp net1 q0 q0_b vss vdd cmos_tg
x_swq0_phi net1 cq0_t phi1 n3 vss vdd cmos_tg
x_swq0_ref vcm cq0_t n3 phi1 vss vdd cmos_tg
XXC_q0 cq0_t sum1 cap_cmim w=1.81e-6 l=1.81e-6
x_swq1_en bp net2 q1 q1_b vss vdd cmos_tg
x_swq1_phi net2 cq1_t phi1 n3 vss vdd cmos_tg
x_swq1_ref vcm cq1_t n3 phi1 vss vdd cmos_tg
XXC_q1 cq1_t sum1 cap_cmim w=2.56e-6 l=2.56e-6
x_swq2_en bp net3 q2 q2_b vss vdd cmos_tg
x_swq2_phi net3 cq2_t phi1 n3 vss vdd cmos_tg
x_swq2_ref vcm cq2_t n3 phi1 vss vdd cmos_tg
XXC_q2 cq2_t sum1 cap_cmim w=3.62e-6 l=3.62e-6
x_swq3_en bp net4 q3 q3_b vss vdd cmos_tg
x_swq3_phi net4 cq3_t phi1 n3 vss vdd cmos_tg
x_swq3_ref vcm cq3_t n3 phi1 vss vdd cmos_tg
XXC_q3 cq3_t sum1 cap_cmim w=5.11e-6 l=5.11e-6
XXXMP_invq0 q0_b q0 vdd vdd sg13_lv_pmos w=2e-6 l=0.13e-6 ng=1
XXXMN_invq0 q0_b q0 vss vss sg13_lv_nmos w=1e-6 l=0.13e-6 ng=1
XXXMP_invq1 q1_b q1 vdd vdd sg13_lv_pmos w=2e-6 l=0.13e-6 ng=1
XXXMN_invq1 q1_b q1 vss vss sg13_lv_nmos w=1e-6 l=0.13e-6 ng=1
XXXMP_invq2 q2_b q2 vdd vdd sg13_lv_pmos w=2e-6 l=0.13e-6 ng=1
XXXMN_invq2 q2_b q2 vss vss sg13_lv_nmos w=1e-6 l=0.13e-6 ng=1
XXXMP_invq3 q3_b q3 vdd vdd sg13_lv_pmos w=2e-6 l=0.13e-6 ng=1
XXXMN_invq3 q3_b q3 vss vss sg13_lv_nmos w=1e-6 l=0.13e-6 ng=1
x_e5_top_vin vin c5_t phi1 n3 vss vdd cmos_tg
x_e5_bot_vcm vcm c5_b phi1 n3 vss vdd cmos_tg
x_e5_top_vcm vcm c5_t n3 phi1 vss vdd cmos_tg
x_e5_bot_sum3 sum3 c5_b n3 phi1 vss vdd cmos_tg
XXC5 c5_t c5_b cap_cmim w=7.0e-6 l=7.0e-6
x_e6_top_lp lp c6_t n3 phi1 vss vdd cmos_tg
x_e6_bot_sum3 sum3 c6_b n3 phi1 vss vdd cmos_tg
x_e6_top_vcm vcm c6_t phi1 n3 vss vdd cmos_tg
x_e6_bot_vcm vcm c6_b phi1 n3 vss vdd cmos_tg
XXC6 c6_t c6_b cap_cmim w=7.0e-6 l=7.0e-6
x_hp_reset sum3 hp phi1 n3 vss vdd cmos_tg
XXC_hp hp sum3 cap_cmim w=7.0e-6 l=7.0e-6
x_ota3 vcm sum3 vcm hp vdd vss svf_ota5t
x_mix_lp lp vout en_lp en_lp_b vss vdd cmos_tg
x_mix_bp bp vout en_bp en_bp_b vss vdd cmos_tg
x_mix_hp hp vout en_hp en_hp_b vss vdd cmos_tg
XXXMP_inv_enlp en_lp_b en_lp vdd vdd sg13_lv_pmos w=2e-6 l=0.13e-6 ng=1
XXXMN_inv_enlp en_lp_b en_lp vss vss sg13_lv_nmos w=1e-6 l=0.13e-6 ng=1
XXXMP_inv_enbp en_bp_b en_bp vdd vdd sg13_lv_pmos w=2e-6 l=0.13e-6 ng=1
XXXMN_inv_enbp en_bp_b en_bp vss vss sg13_lv_nmos w=1e-6 l=0.13e-6 ng=1
XXXMP_inv_enhp en_hp_b en_hp vdd vdd sg13_lv_pmos w=2e-6 l=0.13e-6 ng=1
XXXMN_inv_enhp en_hp_b en_hp vss vss sg13_lv_nmos w=1e-6 l=0.13e-6 ng=1
.ends

* expanding   symbol:  cmos_tg.sym # of pins=6
** sym_path: /data/Projects/tiny_workspace/xschem/cmos_tg.sym
** sch_path: /data/Projects/tiny_workspace/xschem/cmos_tg.sch
.subckt cmos_tg a b ctrl_n ctrl_p vss vdd
*.iopin a
*.iopin b
*.ipin ctrl_n
*.ipin ctrl_p
*.iopin vss
*.iopin vdd
XXMN a ctrl_n b vss sg13_lv_nmos w=2e-6 l=0.13e-6 ng=1
XXMP b ctrl_p a vdd sg13_lv_pmos w=4e-6 l=0.13e-6 ng=1
.ends


* expanding   symbol:  svf_ota5t.sym # of pins=6
** sym_path: /data/Projects/tiny_workspace/xschem/svf_ota5t.sym
** sch_path: /data/Projects/tiny_workspace/xschem/svf_ota5t.sch
.subckt svf_ota5t vinp vinn vbias vout vdd vss
*.iopin vdd
*.iopin vss
*.ipin vinp
*.ipin vinn
*.opin vout
*.ipin vbias
XXM3 mirr mirr vdd vdd sg13_lv_pmos w=2e-6 l=0.5e-6 ng=1
XXM4 vout mirr vdd vdd sg13_lv_pmos w=2e-6 l=0.5e-6 ng=1
XXM1 mirr vinp tail vss sg13_lv_nmos w=4e-6 l=0.5e-6 ng=1
XXM2 vout vinn tail vss sg13_lv_nmos w=4e-6 l=0.5e-6 ng=1
XXM5 tail vbias vss vss sg13_lv_nmos w=2e-6 l=0.5e-6 ng=1
.ends

.end
